US05338749
10 g of 50% strength sodium hydroxide solution were added dropwise to a solution of 50 (0.22 mole) of 6-acetyl-1,2,3,4-tetrahydro-1,1,4,4-tetramethylnaphthalene and 26.1 g (0.22 mole) of 4-tolylaldehyde in 250 ml of methanol. The mixture was stirred overnight, after which it was poured onto ice/water and left to stand for several hours. The precipitated crystals were filtered off under suction and dried to give 70 g of 1-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenyl)-3-(4-tolyl)-prop-2-en-1-one of melting point 153°-154° C.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 6-acetyl-1,2,3,4-tetrahydro-1,1,4,4-tetramethylnaphthalene | C(C)(=O)C=1C=C2C(CCC(C2=CC1)(C)C)(C)C | C16H22O
solvent | methanol | 250 ml | CO | CH4O
product | 1-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenyl)-3-(4-tolyl)-prop-2-en-1-one | 70 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(C=CC1=CC=C(C=C1)C)=O)C | C24H28O
